US07888364B2
N-(4-Chloro-3-(pyridin-2-yl)phenyl)-3-hydroxy-4-(methylsulfonylmethyl)benzamide (1.00 g, 2.40 mmol) was dissolved in DMF (20 ml). Cesium carbonate (1.56 g, 4.8 mmol) and 1,2-dibromoethane (0.83 ml, 9.6 mmol) were added, and the reaction was stirred at 50° C. for 18 hours. The reaction was quenched with water, basified with 10% aqueous NaOH, and extracted with ethyl acetate twice. The ethyl extracts were washed with water once, brine once, dried with MgSO4, and evaporated to a crude oil which was purified by chromatography (25% hexanes in ethyl acetate) to yield 490 mg of 3-(2-bromoethoxy)-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide as a yellow solid. 3-(2-Bromoethoxy)-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide (100 mg, 0.19 mmol) was dissolved in DMF (2.0 ml), and potassium carbonate (32 mg, 0.23 mmol) and tert-butyl piperazine-1-carboxylate (38 mg, 0.21 mmol) were added. The reaction was stirred for 18 hours at room temperature, quenched in water, and extracted with ethyl acetate twice. The ethyl acetate extracts were washed with water once, brine once, dried with MgSO4, and evaporated to a crude oil. The oil was dissolved in dichloromethane (1 ml) and treated with trifluoroacetic acid (3 ml) for 1 hour. The reaction was evaporated to dryness, and the crude solid was purified on reverse phase HPLC to yield 63 mg of N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)-3-(2-(piperazin-1-yl)ethoxy)benzamide as a white solid. N-(4-Chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)-3-(2-(piperazin-1-yl)ethoxy)benzamide (30 mg, 0.047 mmol) was dissolved in dichloromethane (1.5 ml) and THF (1.0 ml). N-ethyl-N-isopropylpropan-2-amine (18 gut, 0.10 mmol) and methanesulfonyl chloride (4 μl, 0.051 mmol) were added, and the reaction stirred at room temperature for 72 hours. Additional N-ethyl-N-isopropylpropan-2-amine (9 μl, 0.051 mmol) and methanesulfonyl chloride (4 μl, 0.051 mmol) were added and the reaction stirred for 2 hours. After a further addition of methanesulfonyl chloride (4 IIl, 0.051 mmol), the reaction was stirred for 2 hours and evaporated to a crude solid which was purified on reverse phase HPLC to yield 8 mg of N-(4-chloro-3-(pyridin-2-yl)phenyl)-3-(2-(4-(methylsulfonyl)piperazin-1-yl)ethoxy)-4-(methylsulfonylmethyl)benzamide. MS (Q1) 607 (M)+.

reactant | 3-(2-Bromoethoxy)-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide | 0.19 mmol, 100 mg | BrCCOC=1C=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC1CS(=O)(=O)C | C22H20BrClN2O4S
reactant | potassium carbonate | 0.23 mmol, 32 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl piperazine-1-carboxylate | 0.21 mmol, 38 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)-3-(2-(piperazin-1-yl)ethoxy)benzamide | 63 mg | ClC1=C(C=C(C=C1)NC(C1=CC(=C(C=C1)CS(=O)(=O)C)OCCN1CCNCC1)=O)C1=NC=CC=C1 | C26H29ClN4O4S
